US04797417
A solution of (3R*,4S*,5R*)-5-[3-(t-butyldiphenylsilyloxy)propyl]-2-oxo-4-phenyl-3- phenylsulfinyltetrahydrofuran (650 mg) in toluene (6.5 ml) was refluxed for 30 minutes. The reaction mixture was chromatographed on silica gel (20 g) eluting with a mixture of benzene and acetone (100:1 to 25:1) to give 5-[3-(t-butyldiphenylsilyloxy)propyl]-4-phenyl-2(5H)furanone (313 mg) as an oil.

reactant | (3R*,4S*,5R*)-5-[3-(t-butyldiphenylsilyloxy)propyl]-2-oxo-4-phenyl-3- phenylsulfinyltetrahydrofuran | 650 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC[C@@H]1[C@@H]([C@H](C(O1)=O)S(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C35H38O4SSi
solvent | toluene | 6.5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(t-butyldiphenylsilyloxy)propyl]-4-phenyl-2(5H)furanone | 313 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1C(=CC(O1)=O)C1=CC=CC=C1 | C29H32O3Si
